US07820704B2
To the THF solution of [4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amine (150.0 mg, 0.5 mmol) and methyl 5-bromopentaoate (215 μL, 0.1.5 mmol) was added NaH (60 mg, 60%, 0.1.5 mmol) and the resulting mixture was heated at 60° C. for 5 h, after cooling to room temperature methanol (2.0 ml). NaOH (2.0 ml, 1.0 M) added and mix was stirred at room temperature for 15 h. HCl added dropwise to pH 7.0. The acid was extracted with EtOAc (2×20 ml), combined organic extracts dried (Na2SO4), filtered, concentrated, and purified on silica gel column. The sodium salt was made following procedure J to afford the sodium 5-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-pentanoate (110 mg). LCMS m/z: 416 (M+1)+.

reactant | [4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amine | 0.5 mmol, 150.0 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)NCC=1SC=CC1 | C17H18N2S2
reactant | NaH | 60 mg | [H-].[Na+]
reactant | NaOH | 1.0 M, 2.0 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | 2.0 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | sodium 5-{[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-pentanoate | 110 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCCCC(=O)[O-])CC=1SC=CC1.[Na+] | InChI=1S/C22H26N2O2S2.Na/c1-16(2)17-8-10-18(11-9-17)20-15-28-22(23-20)24(12-4-3-7-21(25)26)14-19-6-5-13-27-19;/h5-6,8-11,13,15-16H,3-4,7,12,14H2,1-2H3,(H,25,26);/q;+1/p-1
